US06451734B1
5-(2,3-Dichlorobenzyl)-1-difluoromethyl-1,2-dihydro-2-methyl-3H-pyrazol-3-one (No. IIIc.1)
A solution of 19 g (0.48 mol) of sodium hydroxide in 165 ml of water was added to a solution of 24.5 g (95.3 mmol) of 5-(2,3-dichlorobenzyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one in 200 ml of dioxane. The mixture was subsequently heated to 60—65° C. and gaseous chlorodifluoromethane was passed through until the starting material had been completely consumed (after about 2 hours). The reaction mixture was then poured into 500 ml of water. The product was extracted with methyl tert-butyl ether. The organic phase was finally dried over magnesium sulfate and concentrated. The crude product was purified by silica gel chromatography (eluent: hexane/ethyl acetate=1:1). Yield: at first 11.5 g of compound Ic.1 and thereafter 5.8 g of compound IIIc.1;

reactant | sodium hydroxide | 0.48 mol, 19 g | [OH-].[Na+]
reactant | 5-(2,3-dichlorobenzyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one | 95.3 mmol, 24.5 g | ClC1=C(CC2=CC(N(N2)C)=O)C=CC=C1Cl | C11H10Cl2N2O
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 165 ml | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-(2,3-Dichlorobenzyl)-1-difluoromethyl-1,2-dihydro-2-methyl-3H-pyrazol-3-one | ClC1=C(CC2=CC(N(N2C(F)F)C)=O)C=CC=C1Cl | C12H10Cl2F2N2O
